US04861795
To a stirred solution of 1.4 g (0.062 g atom) of sodium, in 500 cc ethanol, was added 20 g (0.063 mole) of ethyl 5-benzyloxy-3-hydroxy-2-naphthoate. The reaction mixture was warmed to reflux for one hour. 2-Piperidinoethyl chloride (16.2 g 0.11 mole) dissolved in 100 cc of benzene was added dropwise to the reaction mixture. The benzene was removed by azeotropic distillation during which time the reaction volume was maintained at 500 cc by the periodic addition of ethanol. Refluxing was continued for 48 hours. The reaction mixture was filtered and the solvent removed from the filtrate. The residue was treated with water and extracted with ether. The ether solution was washed with water and then dried over anhydrous MgSO4. Hydrogen chloride precipitated the hydrochloride salt which was then crystallized from acetonitrile to yield ethyl 5-benzyloxy-3-(2- piperidinoethoxy)-2-naphthoate hydrochloride, m.p. 163°-6° C. in 38 percent yield (10.8 g).

reactant | sodium | 1.4 g | [Na] | Na
reactant | ethyl 5-benzyloxy-3-hydroxy-2-naphthoate | 0.063 mole, 20 g | C(C1=CC=CC=C1)OC1=C2C=C(C(=CC2=CC=C1)C(=O)OCC)O | C20H18O4
reactant | 2-Piperidinoethyl chloride | 0.11 mole, 16.2 g | N1(CCCCC1)CCCl | C7H14ClN
solvent | ethanol | 500 cc | C(C)O | C2H6O
solvent | benzene | 100 cc | C1=CC=CC=C1 | C6H6
product | ethyl 5-benzyloxy-3-(2- piperidinoethoxy)-2-naphthoate hydrochloride | 38 percent yield | Cl.C(C1=CC=CC=C1)OC1=C2C=C(C(=CC2=CC=C1)C(=O)OCC)OCCN1CCCCC1 | InChI=1S/C27H31NO4.ClH/c1-2-30-27(29)24-18-22-12-9-13-25(32-20-21-10-5-3-6-11-21)23(22)19-26(24)31-17-16-28-14-7-4-8-15-28;/h3,5-6,9-13,18-19H,2,4,7-8,14-17,20H2,1H3;1H
